US08735414B2
A mixture of 4-fluoro-5-methyl-2-((trimethylsilyl)ethynyl)aniline (plus ca. 10% of the undesired isomer) (10.3 g, 46.6 mmol) and copper(I) iodide (17.75 g, 93.2 mmol) in DMF (200 mL) was stirred at 100° C. for 4 hours. The mixture was then treated with ethyl ether (300 mL) and filtered. The filtrate was washed with water (200 mL) and extracted with ether. The organics were combined and washed with water, brine, and dried over Na2SO4 and concentrated. The residue was purified by flash chromatography with 5-35% ethyl acetate in hexane to give 1.9 g 5-fluoro-6-methyl-2-(trimethylsilyl)-1H-indole containing ˜10% of the undesired isomer, 5-fluoro-4-methyl-2-(trimethylsilyl)-1H-indole plus desilylated product, 5-fluoro-6-methyl-1H-indole (2.8 g) with ˜10% of the undesired isomer, 5-fluoro-4-methyl-1H-indole. Silylated material, 5-fluoro-6-methyl-2-(trimethylsilyl)-1H-indole containing ˜10% of the undesired isomer, was re-dissolved in methanol (20 mL) and stirred with potassium carbonate overnight, filtered and concentrated. All desilylated material was combined (3.7 g) and recrystallized from CH2Cl2 and hexane to provide 5-fluoro-6-methyl-1H-indole (1.9 g).

reactant | 5-fluoro-6-methyl-2-(trimethylsilyl)-1H-indole | FC=1C=C2C=C(NC2=CC1C)[Si](C)(C)C | C12H16FNSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 mL | CO | CH4O
product | 5-fluoro-6-methyl-1H-indole | 1.9 g | FC=1C=C2C=CNC2=CC1C | C9H8FN
